US07345178B2
A suspension of 6-aminopyridine-2-carboxylic acid (112 mg), or 2-aminopyridine-4-carboxylic acid (112 mg, 0.82 mmol), or 5-aminopyridine-3-carboxylic acid (112 mg, 0.82 mmol) with 1,2-diaminobenzene (177 mg, 1.64 mmol) was heated in 4 mL of PPA (180 degree) for 2 h. The reaction mixture was each poured into 50 mL ice-water and neutralized with 2 N NaOH (chilled) during vigorous stirring. The resulting precipitate was filtered and washed with 20 mL warm water to afford 105 mg of desired 6-(1H-benzo[d]imidazol-2-yl)pyridin-2-amine (MS, M++H=211.1).

reactant | 6-aminopyridine-2-carboxylic acid | 112 mg | NC1=CC=CC(=N1)C(=O)O | C6H6N2O2
reactant | 2-aminopyridine-4-carboxylic acid | 0.82 mmol, 112 mg | NC1=NC=CC(=C1)C(=O)O | C6H6N2O2
reactant | 5-aminopyridine-3-carboxylic acid | 0.82 mmol, 112 mg | NC=1C=C(C=NC1)C(=O)O | C6H6N2O2
reactant | 1,2-diaminobenzene | 1.64 mmol, 177 mg | NC1=C(C=CC=C1)N | C6H8N2
reactant | NaOH | 2 N | [OH-].[Na+]
product | 6-(1H-benzo[d]imidazol-2-yl)pyridin-2-amine | 105 mg | N1C(=NC2=C1C=CC=C2)C2=CC=CC(=N2)N | C12H10N4
